US04096249
S-Trityl-1-thio-β-D-glucopyranose (0.70 g., 1.6 mmole) is dissolved in 20 ml. of dry dimethylformamide. Methyl isocyanate (1.5 ml.) is added and the mixture is stirred for 1.5 hours at room temperature and for an additional two hours at 65° C. The solvent is evaporated at reduced pressure, the residue is triturated with water and neutralized to pH 4 with dilute hydrochloric acid. Extracting the organic materials into chloroform, evaporating the chloroform extract and chromatographing the residue on a silica column with ethyl acetate eluant gives S-trityl-2,3,4,6-tetra-O-(N-methylcarbamoyl)-1-thio-β-D-glucopyranose.

reactant | S-Trityl-1-thio-β-D-glucopyranose | 1.6 mmole, 0.70 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)S[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C25H26O5S
reactant | Methyl isocyanate | 1.5 ml | CN=C=O | C2H3NO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | S-trityl-2,3,4,6-tetra-O-(N-methylcarbamoyl)-1-thio-β-D-glucopyranose | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)S[C@H]1[C@H](OC(NC)=O)[C@@H](OC(NC)=O)[C@H](OC(NC)=O)[C@H](O1)COC(NC)=O | C33H38N4O9S
